US05296495
A mixture of 4-tert-butyl-2-[5-(2-methyl-2-methoxycarbonylpropyl)benzofuran-2-yl]thiazole (0.33 g) and 1N aqueous sodium hydroxide (2 ml) in methanol (5 ml) was stirred under reflux for 5 hours. After being cooled, the resulting mixture was concentrated under reduced pressure and adjusted to pH 6 with diluted aqueous hydrochloric acid. The resulting crystals were collected by filtration and washed with water to give 4-tert-butyl-2-[5-(2-carboxy-2-methylpropyl)benzofuran-2-yl]thiazole (0.28 g).

reactant | 4-tert-butyl-2-[5-(2-methyl-2-methoxycarbonylpropyl)benzofuran-2-yl]thiazole | 0.33 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CC(C)(C(=O)OC)C | C21H25NO3S
reactant | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | 4-tert-butyl-2-[5-(2-carboxy-2-methylpropyl)benzofuran-2-yl]thiazole | 0.28 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CC(C)(C)C(=O)O | C20H23NO3S
